US05364869
1-(4-Methylphenyl)pyrrole
The title compound was prepared in analogy to the procedure described in European Patent Application 480204. 4-Methylaniline (30 g, 280 mmol), 2,5-dimethoxytetrahydrofuran (22 g, 166 mmol) and acetic acid (200 mL) were combined under a nitrogen atmosphere and heated at -100° C. for 90 minutes. The solvent was removed under reduced pressure and the residue obtained suspended in hexane and filtered. The filtrate was passed through a pad of silica gel and concentrated in vacuo. The residue obtained was crystallized from methanol to afford 10.6 g (45%) of the title compound. MS (DCI/NH3) m/e 158 (M+H)+.

reactant | 4-Methylaniline | 280 mmol, 30 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | 2,5-dimethoxytetrahydrofuran | 166 mmol, 22 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Methylphenyl)pyrrole | 10.6 g, 45% | CC1=CC=C(C=C1)N1C=CC=C1 | C11H11N
